Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Symptomatic R ankle hardware
 
Major Surgical or Invasive Procedure:
Removal of hardware R ankle

 
History of Present Illness:
This is a follow-up notes by Mrs. ___ who is now 9 months
from a well-healed syndesmotic injury and bimalleolar ankle
fracture.  Her main burden at this point is still some degree of
swelling and stiffness, so I have offered her to remove the
hardware, particularly the syndesmotic screw.  She has agreed 
and
we will schedule her in the near future with the hope that
removing the syndesmotic screw may improve her motion of the
lipid.  Overall she is doing well.  Her physical exam is
remarkable only for some mild edema but wounds are well-perfused
and the foot remains vascularly and  sensory intact.  We will
schedule her for removal of hardware may be as early as later
this week.  We spent more than half the time of this 15 minute
visit discussing and counseling regarding her present findings
and plan of care
 
Past Medical History:
HLD and DM 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: ___ 0427 Temp: 97.6 PO BP: 99/58 HR: 51 RR: 18 O2
sat: 94% 
General: Well-appearing, breathing comfortably
MSK:
- RLE Dressing in place c/d/i
- Compartments soft and compressible
- Fires ___
- SILT s/s/dp/sp/t distributions
- Toes WWP with brisk cap refill
 
Pertinent Results:
See OMR
 
Brief Hospital Course:
The patient was taken to the operating room on ___ for 
removal of hardware right ankle, which the patient tolerated 
well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition.  The patient was noted 
to be bradycardic in the PACU with heart rates in the ___.  The 
patient was asymptomatic at this time.  She denied chest pain or 
shortness of breath, and remained hemodynamically stable.

Further history was obtained by the patient's daughter, who 
endorsed a similar reaction of her mother to narcotic pain 
medicine and anesthesia in the past.  The patient was admitted 
to the surgical floor and a telemetry bed for observation 
overnight.  During this time, the patient was comfortable and 
remained asymptomatic.  She was noted to have heart rates in the 
___ overnight.  She was satting comfortably on room air.  
Narcotic pain medicines were halted, and she received only 
Tylenol and tramadol as needed for pain. The ___ hospital 
course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
weightbearing as tolerated in the right lower extremity, and 
does not require DVT prophylaxis as she is ambulatory and this 
is typically an outpatient procedure.. The patient will follow 
up with Dr. ___ routine. A thorough discussion was had 
with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.

 
Medications on Admission:
1. Loratidine
2. Metformin
3. Simvastatin
 
Discharge Medications:
1.  Loratadine 10 mg PO DAILY  
2.  MetFORMIN (Glucophage) 500 mg PO BID  
3.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Symptomatic R ankle hardware

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated, right lower extremity

MEDICATIONS:
  1)  Take Tylenol ___ every 6 hours for pain. This is an over 
the counter medication.
  2)  Please do not take other pain medications, as you are very 
sensitive to them.  
  3)  Please take all medications as prescribed by your 
physicians at discharge.
  4)  Continue all home medications unless specifically 
instructed to stop by your surgeon.  

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- Incision may be left open to air unless actively draining. If 
draining, you may apply a gauze dressing secured with paper 
tape.

DANGER SIGNS:
Please call your PCP or surgeon's office and/or return to the 
emergency department if you experience any of the following:
- Increasing pain that is not controlled with pain medications
- Increasing redness, swelling, drainage, or other concerning 
changes in your incision
- Persistent or increasing numbness, tingling, or loss of 
sensation
- Fever > 101.4
- Shaking chills
- Chest pain
- Shortness of breath
- Nausea or vomiting with an inability to keep food, liquid, 
medications down
- Any other medical concerns

THIS PATIENT IS EXPECTED TO REQUIRE <30 DAYS OF REHAB

 
Followup Instructions:
___